US06956137B1
At 35° C., 45 μl of H2O2 (50%) were added to a solution of 325 μl of α-terpinene and 48.5 mg of Na2MoO4.2H2O in 4 ml of methanol. Five further 45 μl portions of H2O2 (50%) were added to this mixture as soon as the red-colored reaction mixture turned yellow again. After 1.5 hours, the reaction mixture was analyzed by means of HPLC. Analysis gave a quantitative formation of ascaridol.

reactant | H2O2 | 45 μl | OO | H2O2
reactant | α-terpinene | 325 μl | CC1=CC=C(CC1)C(C)C | C10H16
solvent | methanol | 4 ml | CO | CH4O
product | ascaridol | CC(C)C12CCC(C=C1)(OO2)C | C10H16O2
